US09334286B2
Preparation 104: 4-Amino-3-methoxy-N,N-dimethylbenzenesulfonamide
4-(1,3-Dioxoisoindolin-2-yl)-3-methoxy-N,N-dimethylbenzenesulfonamide (Preparation 105, 50 mg, 0.139 mmol) was suspended in MeOH (6 mL) and hydrazine hydrate (1 mL) was added. The resulting solution was stirred at room temperature for 2 hours before concentrating in vacuo. The residue was purified using Biotage silica gel column chromatography eluting with 50% EtOAc in cyclohexane to give the title compound as white solid (11 mg, 34%).

reactant | 4-(1,3-Dioxoisoindolin-2-yl)-3-methoxy-N,N-dimethylbenzenesulfonamide | 0.139 mmol, 50 mg | O=C1N(C(C2=CC=CC=C12)=O)C1=C(C=C(C=C1)S(=O)(=O)N(C)C)OC | C17H16N2O5S
reactant | hydrazine hydrate | 1 mL | O.NN
solvent | MeOH | 6 mL | CO | CH4O
product | 4-Amino-3-methoxy-N,N-dimethylbenzenesulfonamide | 11 mg, 34% | NC1=C(C=C(C=C1)S(=O)(=O)N(C)C)OC | C9H14N2O3S
